US04252739
To illustrate yet another variation of the present process a reaction vessel fitted with a suitable stirrer, Dean-Stark trap, and condenser was charged with 866 g (6.9 mol) trans 1,4-dichlorobutene-2, 640 g (4.0 mol) diethyl malonate, 1.2 g (0.08 mol percent based on malonate) tricaprylylmethylammonium chloride and 1.8 liters benzene. The reactor and its contents were heated to 60° C. with stirring and incremental additions of flaked solid (85%) potassium hydroxide made over a 4.75-hour period while azeotropically removing water of reaction. A total of 528 grams solid KOH were charged. After 5.5 hours the theoretical amount of water was removed and the reaction mixture was cooled, filtered to remove potassium salts and the benzene solution concentrated. The crude brown oil, upon distillation at reduced pressure, yielded the desired diethyl 2-vinylcyclopropane-1,1-dicarboxylate (65.7% yield).

reactant | trans 1,4-dichlorobutene-2 | 6.9 mol, 866 g | C(/C=C/CCl)Cl | C4H6Cl2
reactant | diethyl malonate | 4.0 mol, 640 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | benzene | 1.8 liters | C1=CC=CC=C1 | C6H6
reactant | potassium hydroxide | [OH-].[K+]
solvent | water | O | H2O
product | diethyl 2-vinylcyclopropane-1,1-dicarboxylate | 65.7% yield | C(=C)C1C(C1)(C(=O)OCC)C(=O)OCC | C11H16O4
